US03935167
b. 2,4-Diphenoxybenzonitrile
2,4-Dichlorobenzonitrile (12.04 g, 0.07 mole) was treated with 17.8 g sodium phenolate (0.155 mole) in 100 ml DMSO at 100°-110°C during 48 hours under nitrogen and stirring. Then, the DMSO was evaporated and the residue was dissolved in ether. The ether solution was then washed with water. After evaporation of the ether, the product was recrystallized from MeOH. Yield 11.5 g; mp 85°-86°C.

reactant | 2,4-Dichlorobenzonitrile | 0.07 mole, 12.04 g | ClC1=C(C#N)C=CC(=C1)Cl | C7H3Cl2N
reactant | sodium phenolate | 0.155 mole, 17.8 g | C1(=CC=CC=C1)[O-].[Na+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 2,4-Diphenoxybenzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C=CC(=C1)OC1=CC=CC=C1 | C19H13NO2
